US05594018
Preparation of N-(2-ethylhexyl)benzisothiazolin-3-one
2-chlorosulphenylbenzoyl chloride (10.35 parts; 0.005M) was slowly added to a stirred solution of 2-ethylhexylamine (29.8 parts; 0.23M;) in diethylether (150 ml) at below 5° C. The reactants were then stirred overnight, allowing the temperature to rise to 18° to 20° C. Iced water was then added and the mix made just acid to Congo red by dropwise addition of of concentrated hydrochloric acid, keeping the temperature below 5° C. The ether layer was then separated and dried over magnesium sulphate. The solution was then filtered and the ether evaporated leaving a syrupy oil. This was boiled with petroleum ether (bp 60°-80° C.), the ether layer decanted from some tarry material and then evaporated to dryness leaving a dark yellow oil. This oil was purified by high vacuum distillation in a Kugelrohr and 8.4 parts pale yellow liquid obtained (Yield 64% theory).

reactant | 2-chlorosulphenylbenzoyl chloride | 0.005M | ClSC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2OS
reactant | 2-ethylhexylamine | 0.23M | C(C)C(CN)CCCC | C8H19N
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
product | N-(2-ethylhexyl)benzisothiazolin-3-one | Yield 64% | C(C)C(CN1SC2=C(C1=O)C=CC=C2)CCCC | C15H21NOS
